US05886014
N-t-Butoxycarbonyl-5-methoxy-2-nitroaniline
25 g of di-t-butyl dicarbonate, 15 ml of pyridine and 0.6 g of 4-dimethylaminopyridine were added at room temperature to a solution of 16 g of 5-methoxy-2-nitroaniline (prepared as described in Preparation 5) in 500 ml of dehydrated tetrahydrofuran, and the resulting mixture was stirred for 2 hours. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure, and the resulting residue was diluted with water. The resulting aqueous mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel using a 1:10 by volume mixture of ethyl acetate and hexane as the eluent, to give 12.5 g of the title compound, melting at 112°-114° C.

reactant | di-t-butyl dicarbonate | 25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | 5-methoxy-2-nitroaniline | 16 g | COC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O3
catalyst | 4-dimethylaminopyridine | 0.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | N-t-Butoxycarbonyl-5-methoxy-2-nitroaniline | 12.5 g | C(C)(C)(C)OC(=O)NC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C12H16N2O5
